US05698579
To a stirred mixture of 3-amino-3-(4-methoxyphenyl)propionic acid (1.95 g, 10.0 mmol) and sodium carbonate (1.11 g, 10.5 mmol) in 200 mL of acetonitrile-water 1:1 is added N-carboethoxyphthalimide (2.26 g, 10.0 mmol). After 1 hour, the reaction slurry is filtered. The filtrate is concentrated to remove the acetonitrile and the pH adjusted to 1-2 with 4N hydrochloric acid and stirred over night. The resulting slurry is filtered and the solid washed with water. The solid is dried in vacuo (60 C, <1 mm) to afford 2.82 g (87%) of 3-phthalimido-3-(4-methoxyphenyl)propionic acid as a white powder: mp 160°-164° C.; 1H NMR (DMSO-6, 250 MHz) δ12.5 (br s, 1H), 7.95-7.80 (m, 4H), 7.36 (d, 2H, J=8.7), 6.92 (d, 2H, J=8.4 Hz), 5.18-5.10 (m, 1H), 3.70-3.15 (m, 2H); 13C NMR (DMSO-d6) δ171.7, 167.6, 158.6, 134.6, 131.0, 130.8, 128.3, 123.1, 113.9, 55.0, 49.6, 35.9. Anal. Calculated for C18H15 NO5. Theoretical: C, 66.46; H, 4.63; N, 4.31. Found: C, 66.25; H, 4.65; N, 4.28.

reactant | 3-amino-3-(4-methoxyphenyl)propionic acid | 10.0 mmol, 1.95 g | NC(CC(=O)O)C1=CC=C(C=C1)OC | C10H13NO3
reactant | sodium carbonate | 10.5 mmol, 1.11 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carboethoxyphthalimide | 10.0 mmol, 2.26 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
solvent | acetonitrile water | 200 mL | C(C)#N.O
product | 3-phthalimido-3-(4-methoxyphenyl)propionic acid | 2.82 g, 87% | C1(C=2C(C(N1C(CC(=O)O)C1=CC=C(C=C1)OC)=O)=CC=CC2)=O | C18H15NO5
